US06682782B2
To a mixture of 180 ml of tetrahydrofuran (THF) and 240 ml of methanol were added 13.84 g (0.026 mol) of tri(4-trimethylsilylethynylphenyl)amine and 4.53 g (0.078 mol) of potassium fluoride. The reaction mixture was heated at 50° C. for 5 h, cooled down to room temperature, and solvent was removed under the reduced pressure. The residue was extracted with ether and the ether layer was washed with distilled water. The washed ether layer was concentrated to give crude product. The crude product was purified by column chromatography on silica gel by eluting with hexane to give 6.182 g (75%) of tri(4-ethynylphenyl)amine of which NMR spectrum was shown in FIG. 9 and mp was 115° C.

reactant | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
reactant | tri(4-trimethylsilylethynylphenyl)amine | 0.026 mol, 13.84 g | C[Si](C)(C)C#CC1=CC=C(C=C1)N(C1=CC=C(C=C1)C#C[Si](C)(C)C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C33H39NSi3
reactant | potassium fluoride | 0.078 mol, 4.53 g | [F-].[K+]
solvent | methanol | 240 ml | CO | CH4O
product | tri(4-ethynylphenyl)amine | 6.182 g, 75% | C(#C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C#C)C1=CC=C(C=C1)C#C | C24H15N
